* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.


*SRC=ABS10A;DI_ABS10A;Diodes;Si;  1000V  1.0A  3.00us   Diodes Inc. Bridge
Rectifier -- for one element

.MODEL DI_ABS10A D  ( IS=3.47n RS=42.6m BV=1000 IBV=5.00u

+ CJO=25.2p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF005M;DI_DF005M;Diodes;Si;  50.0V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF005M D  ( IS=4.42n RS=42.0m BV=50.0 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF005S;DI_DF005S;Diodes;Si;  50.0V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF005S D  ( IS=4.42n RS=42.0m BV=50.0 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF01M;DI_DF01M;Diodes;Si;  100V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF01M D  ( IS=4.42n RS=42.0m BV=100 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF01S;DI_DF01S;Diodes;Si;  100V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF01S D  ( IS=4.42n RS=42.0m BV=100 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF02M;DI_DF02M;Diodes;Si;  200V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF02M D  ( IS=4.42n RS=42.0m BV=200 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF02S;DI_DF02S;Diodes;Si;  200V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF02S D  ( IS=4.42n RS=42.0m BV=200 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF04M;DI_DF04M;Diodes;Si;  400V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF04M D  ( IS=4.42n RS=42.0m BV=400 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF04S;DI_DF04S;Diodes;Si;  400V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF04S D  ( IS=4.42n RS=42.0m BV=400 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF06M;DI_DF06M;Diodes;Si;  600V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF06M D  ( IS=4.42n RS=42.0m BV=600 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF06S;DI_DF06S;Diodes;Si;  600V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF06S D  ( IS=4.42n RS=42.0m BV=600 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF08M;DI_DF08M;Diodes;Si;  800V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF08M D  ( IS=4.42n RS=42.0m BV=800 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF08S;DI_DF08S;Diodes;Si;  800V  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF08S D  ( IS=4.42n RS=42.0m BV=800 IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF10M;DI_DF10M;Diodes;Si;  1.00kV  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF10M D  ( IS=4.42n RS=42.0m BV=1.00k IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF10S;DI_DF10S;Diodes;Si;  1.00kV  1.00A  3.00us   Diodes Inc. Bridge -- for one element 
.MODEL DI_DF10S D  ( IS=4.42n RS=42.0m BV=1.00k IBV=10.0u 
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF15005S;DI_DF15005S;Diodes;Si;  50.0V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_DF15005S D  ( IS=2.06n RS=28.1m BV=50.0 IBV=10.0u
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF1501S;DI_DF1501S;Diodes;Si;  100V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_DF1501S D  ( IS=2.06n RS=28.1m BV=100 IBV=10.0u
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF1502S;DI_DF1502S;Diodes;Si;  200V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_DF1502S D  ( IS=2.06n RS=28.1m BV=200 IBV=10.0u
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF1504S;DI_DF1504S;Diodes;Si;  400V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_DF1504S D  ( IS=2.06n RS=28.1m BV=400 IBV=10.0u
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF1506S;DI_DF1506S;Diodes;Si;  600V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_DF1506S D  ( IS=2.06n RS=28.1m BV=600 IBV=10.0u
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF1508S;DI_DF1508S;Diodes;Si;  800V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_DF1508S D  ( IS=2.06n RS=28.1m BV=800 IBV=10.0u
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DF1510S;DI_DF1510S;Diodes;Si;  1.00kV  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_DF1510S D  ( IS=2.06n RS=28.1m BV=1.00k IBV=10.0u
+ CJO=65.0p  M=0.333 N=1.70 TT=4.32u )


*SRC=DLPA006;DI_DLPA006;Diodes;Si;  85.0V  0.160A  3.00us   Diodes, Inc.
Switching - one element of DLPA006 array
.MODEL DI_DLPA006 D  ( IS=59.0p RS=0.262 BV=85.0 IBV=5.00n
+ CJO=2.00p  M=0.333 N=1.78 TT=4.32u )


*SRC=GBJ15005;DI_GBJ15005;Diodes;Si;  50.0V  15.0A  3.00us   Diodes Inc.
Bridge Rectifier -- for one element
.MODEL DI_GBJ15005 D  ( IS=5.11u RS=3.43m BV=50.0 IBV=10.0u
+ CJO=106p  M=0.333 N=2.44 TT=4.32u )


*SRC=GBJ1501;DI_GBJ1501;Diodes;Si;  100V  15.0A  3.00us   Diodes Inc.
Bridge Rectifier -- for one element
.MODEL DI_GBJ1501 D  ( IS=5.11u RS=3.43m BV=100 IBV=10.0u
+ CJO=106p  M=0.333 N=2.44 TT=4.32u )


*SRC=GBJ1502;DI_GBJ1502;Diodes;Si;  200V  15.0A  3.00us   Diodes Inc.
Bridge Rectifier -- for one element
.MODEL DI_GBJ1502 D  ( IS=5.11u RS=3.43m BV=200 IBV=10.0u
+ CJO=106p  M=0.333 N=2.44 TT=4.32u )


*SRC=GBJ1504;DI_GBJ1504;Diodes;Si;  400V  15.0A  3.00us   Diodes Inc.
Bridge Rectifier -- for one element
.MODEL DI_GBJ1504 D  ( IS=5.11u RS=3.43m BV=400 IBV=10.0u
+ CJO=106p  M=0.333 N=2.44 TT=4.32u )


*SRC=GBJ1506;DI_GBJ1506;Diodes;Si;  600V  15.0A  3.00us   Diodes Inc.
Bridge Rectifier -- for one element
.MODEL DI_GBJ1506 D  ( IS=5.11u RS=3.43m BV=600 IBV=10.0u
+ CJO=106p  M=0.333 N=2.44 TT=4.32u )


*SRC=GBJ1508;DI_GBJ1508;Diodes;Si;  800V  15.0A  3.00us   Diodes Inc.
Bridge Rectifier -- for one element
.MODEL DI_GBJ1508 D  ( IS=5.11u RS=3.43m BV=800 IBV=10.0u
+ CJO=106p  M=0.333 N=2.44 TT=4.32u )


*SRC=GBJ1510;DI_GBJ1510;Diodes;Si;  1.00kV  15.0A  3.00us   Diodes Inc.
Bridge Rectifier -- for one element
.MODEL DI_GBJ1510 D  ( IS=5.11u RS=3.43m BV=1.00k IBV=10.0u
+ CJO=106p  M=0.333 N=2.44 TT=4.32u )


*SRC=GBJ20005;DI_GBJ20005;Diodes;Si;  50.0V  20.0A  3.00us   Diodes Inc.
Bridge Rect. This model covers only one element.  There are four elements per pkg. .MODEL DI_GBJ20005 D  ( IS=15.1u RS=2.96m BV=50.0 IBV=10.0u
+ CJO=111p  M=0.333 N=2.84 TT=4.32u )


*SRC=GBJ2001;DI_GBJ2001;Diodes;Si;  100V  20.0A  3.00us   Diodes Inc.
Bridge Rect. This model covers only one element.  There are four elements per pkg. .MODEL DI_GBJ2001 D  ( IS=15.1u RS=2.96m BV=100 IBV=10.0u
+ CJO=111p  M=0.333 N=2.84 TT=4.32u )


*SRC=GBJ2002;DI_GBJ2002;Diodes;Si;  200V  20.0A  3.00us   Diodes Inc.
Bridge Rect. This model covers only one element.  There are four elements per pkg. .MODEL DI_GBJ2002 D  ( IS=15.1u RS=2.96m BV=200 IBV=10.0u
+ CJO=111p  M=0.333 N=2.84 TT=4.32u )


*SRC=GBJ2004;DI_GBJ2004;Diodes;Si;  400V  20.0A  3.00us   Diodes Inc.
Bridge Rect. This model covers only one element.  There are four elements per pkg. .MODEL DI_GBJ2004 D  ( IS=15.1u RS=2.96m BV=400 IBV=10.0u
+ CJO=111p  M=0.333 N=2.84 TT=4.32u )


*SRC=GBJ2006;DI_GBJ2006;Diodes;Si;  600V  20.0A  3.00us   Diodes Inc.
Bridge Rect. This model covers only one element.  There are four elements per pkg. .MODEL DI_GBJ2006 D  ( IS=15.1u RS=2.96m BV=600 IBV=10.0u
+ CJO=111p  M=0.333 N=2.84 TT=4.32u )


*SRC=GBJ2008;DI_GBJ2008;Diodes;Si;  800V  20.0A  3.00us   Diodes Inc.
Bridge Rect. This model covers only one element.  There are four elements per pkg. .MODEL DI_GBJ2008 D  ( IS=15.1u RS=2.96m BV=800 IBV=10.0u
+ CJO=111p  M=0.333 N=2.84 TT=4.32u )


*SRC=GBJ2010;DI_GBJ2010;Diodes;Si;  1.00kV  20.0A  3.00us   Diodes Inc.
Bridge Rect. This model covers only one element.  There are four elements per pkg. .MODEL DI_GBJ2010 D  ( IS=15.1u RS=2.96m BV=1.00k IBV=10.0u
+ CJO=111p  M=0.333 N=2.84 TT=4.32u )


*SRC=GBJ2510;DI_GBJ2510;Diodes;Si;  1.00kV  25.0A  3.00us   Diodes Inc. Bridge Rectifier--Per Element
.MODEL DI_GBJ2510 D  ( IS=379n RS=2.84m BV=1.00k IBV=10.0u
+ CJO=146p  M=0.333 N=2.07 TT=4.32u )


*SRC=GBU1002;DI_GBU1002;Diodes;Si;  200V  10.0A  3.00us   Diodes Inc.
Bridge Rectifier -- Per Element
.MODEL DI_GBU1002 D  ( IS=1.71f RS=7.00m BV=200 IBV=5.00u
+ CJO=133p  M=0.333 N=0.900 TT=4.32u )


*SRC=GBU1010;DI_GBU1010;Diodes;Si;  1000V  10.0A  3.00us   Diodes Inc.
Bridge Rectifier -- Per Element
.MODEL DI_GBU1010 D  ( IS=1.71f RS=7.00m BV=1000 IBV=5.00u
+ CJO=133p  M=0.333 N=0.900 TT=4.32u )
.ENDS*


*SRC=GBU4005;DI_GBU4005;Diodes;Si;  50.0V  4.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU4005 D  ( IS=23.3n RS=7.20m BV=50.0 IBV=5.00u
+ CJO=148p  M=0.333 N=1.80 TT=4.32u )


*SRC=GBU401;DI_GBU401;Diodes;Si;  100V  4.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU401 D  ( IS=23.3n RS=7.20m BV=100 IBV=5.00u
+ CJO=148p  M=0.333 N=1.80 TT=4.32u )


*SRC=GBU402;DI_GBU402;Diodes;Si;  200V  4.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU402 D  ( IS=23.3n RS=7.20m BV=200 IBV=5.00u
+ CJO=148p  M=0.333 N=1.80 TT=4.32u )


*SRC=GBU404;DI_GBU404;Diodes;Si;  400V  4.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU404 D  ( IS=23.3n RS=7.20m BV=400 IBV=5.00u
+ CJO=148p  M=0.333 N=1.80 TT=4.32u )


*SRC=GBU406;DI_GBU406;Diodes;Si;  600V  4.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU406 D  ( IS=23.3n RS=7.20m BV=600 IBV=5.00u
+ CJO=148p  M=0.333 N=1.80 TT=4.32u )


*SRC=GBU408;DI_GBU408;Diodes;Si;  800V  4.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU408 D  ( IS=23.3n RS=7.20m BV=800 IBV=5.00u
+ CJO=148p  M=0.333 N=1.80 TT=4.32u )


*SRC=GBU410;DI_GBU410;Diodes;Si;  1.00kV  4.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU410 D  ( IS=23.3n RS=7.20m BV=1.00k IBV=5.00u
+ CJO=148p  M=0.333 N=1.80 TT=4.32u )


*SRC=GBU8005;DI_GBU8005;Diodes;Si;  50.0V  8.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU8005 D  ( IS=17.8p RS=7.59m BV=50.0 IBV=5.00u
+ CJO=240p  M=0.333 N=1.25 TT=4.32u )


*SRC=GBU801;DI_GBU801;Diodes;Si;  100V  8.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU801 D  ( IS=17.8p RS=7.59m BV=100 IBV=5.00u
+ CJO=240p  M=0.333 N=1.25 TT=4.32u )


*SRC=GBU802;DI_GBU802;Diodes;Si;  200V  8.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU802 D  ( IS=17.8p RS=7.59m BV=200 IBV=5.00u
+ CJO=240p  M=0.333 N=1.25 TT=4.32u )


*SRC=GBU804;DI_GBU804;Diodes;Si;  400V  8.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU804 D  ( IS=17.8p RS=7.59m BV=400 IBV=5.00u
+ CJO=240p  M=0.333 N=1.25 TT=4.32u )


*SRC=GBU806;DI_GBU806;Diodes;Si;  600V  8.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU806 D  ( IS=17.8p RS=7.59m BV=600 IBV=5.00u
+ CJO=240p  M=0.333 N=1.25 TT=4.32u )


*SRC=GBU808;DI_GBU808;Diodes;Si;  800V  8.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU808 D  ( IS=17.8p RS=7.59m BV=800 IBV=5.00u
+ CJO=240p  M=0.333 N=1.25 TT=4.32u )


*SRC=GBU810;DI_GBU810;Diodes;Si;  1.00kV  8.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_GBU810 D  ( IS=17.8p RS=7.59m BV=1.00k IBV=5.00u
+ CJO=240p  M=0.333 N=1.25 TT=4.32u )


*SRC=HBS410;DI_HBS410;Diodes;Si;  1.00kV  4.00A  3.00µs   Diodes Inc. Bridge -- for one element
.MODEL DI_HBS410 D  ( IS=130.2n RS=6.366m BV=1.229k IBV=1m
+ CJO=69.01p  M=0.295 N=2.075 TT=4.32µ)


*SRC=HD01;DI_HD01;Diodes;Si;  100V  0.800A  3.00us   Diodes Inc. Bridge
Rectifier -- for one element

.MODEL DI_HD01 D  ( IS=3.47n RS=42.6m BV=100 IBV=5.00u

+ CJO=25.2p  M=0.333 N=1.70 TT=4.32u )


*SRC=HD02;DI_HD02;Diodes;Si;  200V  0.800A  3.00us   Diodes Inc. Bridge
Rectifier -- for one element

.MODEL DI_HD02 D  ( IS=3.47n RS=42.6m BV=200 IBV=5.00u

+ CJO=25.2p  M=0.333 N=1.70 TT=4.32u )


*SRC=HD04;DI_HD04;Diodes;Si;  400V  0.800A  3.00us   Diodes Inc. Bridge
Rectifier -- for one element

.MODEL DI_HD04 D  ( IS=3.47n RS=42.6m BV=400 IBV=5.00u

+ CJO=25.2p  M=0.333 N=1.70 TT=4.32u )


*SRC=HD06;DI_HD06;Diodes;Si;  600V  0.800A  3.00us   Diodes Inc. Bridge
Rectifier -- for one element

.MODEL DI_HD06 D  ( IS=3.47n RS=42.6m BV=600 IBV=5.00u

+ CJO=25.2p  M=0.333 N=1.70 TT=4.32u )


*SRC=KBJ4005G;DI_KBJ4005G;Diodes;Si;  50.0V  4.00A  3.00us   Diodes Inc. Bridge Rectifier - Per Diode
.MODEL DI_KBJ4005G D  ( IS=656n RS=10.5m BV=50.0 IBV=10.0u
+ CJO=79.6p  M=0.333 N=2.45 TT=4.32u )


*SRC=KBJ401G;DI_KBJ401G;Diodes;Si;  100V  4.00A  3.00us   Diodes Inc. Bridge Rectifier - Per Diode
.MODEL DI_KBJ401G D  ( IS=656n RS=10.5m BV=100 IBV=10.0u
+ CJO=79.6p  M=0.333 N=2.45 TT=4.32u )


*SRC=KBJ402G;DI_KBJ402G;Diodes;Si;  200V  4.00A  3.00us   Diodes Inc. Bridge Rectifier - Per Diode
.MODEL DI_KBJ402G D  ( IS=656n RS=10.5m BV=200 IBV=10.0u
+ CJO=79.6p  M=0.333 N=2.45 TT=4.32u )


*SRC=KBJ404G;DI_KBJ404G;Diodes;Si;  400V  4.00A  3.00us   Diodes Inc. Bridge Rectifier - Per Diode
.MODEL DI_KBJ404G D  ( IS=656n RS=10.5m BV=400 IBV=10.0u
+ CJO=79.6p  M=0.333 N=2.45 TT=4.32u )


*SRC=KBJ406G;DI_KBJ406G;Diodes;Si;  600V  4.00A  3.00us   Diodes Inc. Bridge Rectifier - Per Diode
.MODEL DI_KBJ406G D  ( IS=656n RS=10.5m BV=600 IBV=10.0u
+ CJO=79.6p  M=0.333 N=2.45 TT=4.32u )


*SRC=KBJ408G;DI_KBJ408G;Diodes;Si;  800V  4.00A  3.00us   Diodes Inc. Bridge Rectifier - Per Diode
.MODEL DI_KBJ408G D  ( IS=656n RS=10.5m BV=800 IBV=10.0u
+ CJO=79.6p  M=0.333 N=2.45 TT=4.32u )


*SRC=KBJ410G;DI_KBJ410G;Diodes;Si;  1.00kV  4.00A  3.00us   Diodes Inc. Bridge Rectifier - Per Diode
.MODEL DI_KBJ410G D  ( IS=656n RS=10.5m BV=1.00k IBV=10.0u
+ CJO=79.6p  M=0.333 N=2.45 TT=4.32u )


*SRC=KBP005G;DI_KBP005G;Diodes;Si;  50.0V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP005G D  ( IS=39.2u RS=28.1m BV=50.0 IBV=5.00u
+ CJO=26.5p  M=0.333 N=4.38 TT=4.32u )


*SRC=KBP01G;DI_KBP01G;Diodes;Si;  100V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP01G D  ( IS=39.2u RS=28.1m BV=100 IBV=5.00u
+ CJO=26.5p  M=0.333 N=4.38 TT=4.32u )


*SRC=KBP02G;DI_KBP02G;Diodes;Si;  200V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP02G D  ( IS=39.2u RS=28.1m BV=200 IBV=5.00u
+ CJO=26.5p  M=0.333 N=4.38 TT=4.32u )


*SRC=KBP04G;DI_KBP04G;Diodes;Si;  400V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP04G D  ( IS=39.2u RS=28.1m BV=400 IBV=5.00u
+ CJO=26.5p  M=0.333 N=4.38 TT=4.32u )


*SRC=KBP06G;DI_KBP06G;Diodes;Si;  600V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP06G D  ( IS=39.2u RS=28.1m BV=600 IBV=5.00u
+ CJO=26.5p  M=0.333 N=4.38 TT=4.32u )


*SRC=KBP08G;DI_KBP08G;Diodes;Si;  800V  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP08G D  ( IS=39.2u RS=28.1m BV=800 IBV=5.00u
+ CJO=26.5p  M=0.333 N=4.38 TT=4.32u )


*SRC=KBP10G;DI_KBP10G;Diodes;Si;  1.00kV  1.50A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP10G D  ( IS=39.2u RS=28.1m BV=1.00k IBV=5.00u
+ CJO=26.5p  M=0.333 N=4.38 TT=4.32u )


*SRC=KBP2005G;DI_KBP2005G;Diodes;Si;  50.0V  2.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP2005G D  ( IS=143n RS=21.1m BV=50.0 IBV=5.00u
+ CJO=46.2p  M=0.333 N=2.12 TT=4.32u )


*SRC=KBP201G;DI_KBP201G;Diodes;Si;  100V  2.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP201G D  ( IS=143n RS=21.1m BV=100 IBV=5.00u
+ CJO=46.2p  M=0.333 N=2.12 TT=4.32u )


*SRC=KBP202G;DI_KBP202G;Diodes;Si;  200V  2.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP202G D  ( IS=143n RS=21.1m BV=200 IBV=5.00u
+ CJO=46.2p  M=0.333 N=2.12 TT=4.32u )


*SRC=KBP204G;DI_KBP204G;Diodes;Si;  400V  2.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP204G D  ( IS=143n RS=21.1m BV=400 IBV=5.00u
+ CJO=46.2p  M=0.333 N=2.12 TT=4.32u )


*SRC=KBP206G;DI_KBP206G;Diodes;Si;  600V  2.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP206G D  ( IS=143n RS=21.1m BV=600 IBV=5.00u
+ CJO=46.2p  M=0.333 N=2.12 TT=4.32u )


*SRC=KBP208G;DI_KBP208G;Diodes;Si;  800V  2.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP208G D  ( IS=143n RS=21.1m BV=800 IBV=5.00u
+ CJO=46.2p  M=0.333 N=2.12 TT=4.32u )


*SRC=KBP210G;DI_KBP210G;Diodes;Si;  1.00kV  2.00A  3.00us   Diodes Inc. Bridge -- for one element
.MODEL DI_KBP210G D  ( IS=143n RS=21.1m BV=1.00k IBV=5.00u
+ CJO=46.2p  M=0.333 N=2.12 TT=4.32u )


*SRC=MSB15MH; DI_MSB15MH; Diodes Inc.; Si;  1000V  1.50A    Diodes Bridge -- for one element

.MODEL DI_MSB15MH D  ( IS=1.14457E-09 RS=19m BV=1000 IBV=5.00u
+ CJO=43.5p  M=0.333 N=1.7 TT=4.32u )


*SRC=MSB25MH; DI_MSB25MH; Diodes Inc.; Si;  1000V  2.50A    Diodes Bridge -- for one element

.MODEL DI_MSB25MH D  ( IS=2.3E-10 RS=11.56m BV=1000 IBV=5.00u
+ CJO=52.5p  M=0.333 N=1.7 TT=4.32u )


*SRC=RH02;DI_RH02;Diodes;Si;  200V  0.500A  150ns   Diodes Inc. Fast Recovery Bridge Rectifier, per node
.MODEL DI_RH02 D  ( IS=2.25n RS=0.100 BV=200 IBV=5.00u
+ CJO=24.0p  M=0.333 N=1.70 TT=216n )


*SRC=RH04;DI_RH04;Diodes;Si;  400V  0.500A  150ns   Diodes Inc. Fast Recovery Bridge Rectifier, per node
.MODEL DI_RH04 D  ( IS=2.25n RS=0.100 BV=400 IBV=5.00u
+ CJO=24.0p  M=0.333 N=1.70 TT=216n )


*SRC=RH06;DI_RH06;Diodes;Si;  600V  0.500A  250ns   Diodes Inc. Fast Recovery Bridge Rectifier, per node
.MODEL DI_RH06 D  ( IS=2.25n RS=0.100 BV=600 IBV=5.00u
+ CJO=24.0p  M=0.333 N=1.70 TT=360n )